US06900194B1
Di(tert-butyl) 2-[2-(benzyloxy)ethyl]malonate
Di(tert-butyl) malonate (151.4 g, 686 mmol) was added dropwise at 50° C. to a suspension of potassium tert-butylate (77 g, 686 mmol) in 500 ml of tert-butanol. Sodium iodide (10.33 g) was then added, followed by dropwise addition of Intermediate 5C (117.1 g, 686 mmol) at 40-50° C. The resulting thick suspension was stirred at 70° C. for two days. During this time, two further portions of potassium tert-butylate (15.4 g each, 70 mmol) were added. The mixture was then poured into ice-water and extracted three times with diethyl ether. The organic layers were dried over Na2SO4, filtered and evaporated. The crude product was finally purified by column chromatography using a cyclohexane/ethyl acetate gradient (70:1→15:1).

reactant | Di(tert-butyl) malonate | 686 mmol, 151.4 g | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | potassium tert-butylate | 686 mmol, 77 g | CC(C)(C)[O-].[K+]
reactant | Sodium iodide | 10.33 g | [I-].[Na+]
reactant | potassium tert-butylate | 70 mmol, 15.4 g | CC(C)(C)[O-].[K+]
solvent | tert-butanol | 500 ml | C(C)(C)(C)O | C4H10O
product | Di(tert-butyl) 2-[2-(benzyloxy)ethyl]malonate | C(C1=CC=CC=C1)OCCC(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C20H30O5
